US04822859
A. Synthesis of [(1-Methoxy-2-methyl-1-propenyl)oxy]triethoxysilane (MPTES)
A 3-necked 2-liter flask, equipped with a mechanical stirrer, thermocouple, dry-ice condenser, and a dropping funnel, was charged with tetrahydrofuran (200 mL) and diisopropylamine (70 mL, 0.50 mol) under an argon atmosphere. The mixture was cooled to 0° and n-butyllithium (313 mL, 1.6M in hexane) was added dropwise while the temperature was maintained at about 0°. The mixture was stirred for 30 minutes, followed by dropwise addition of methyl isobutyrate (57.3 mL, 0.50 mol). Stirring was continued at 0° for an additional 30 minutes and triethoxysilyl chloride (147 mL, 0.75 mol) was added. The mixture was stirred and allowed to warm up to room temperature overnight and filtered under argon to remove the precipitated lithium salts. The solvents were evaporated and the liquid residue was distilled, first using a Vigreux column, followed by spinning band distillation. The total MPTES obtained was 113.3 g (86% yield). This was identified by 1H NMR spectroscpy, IR (infrared) and GC/MS; (gas chromatography/mass spectroscopy) b.p. 59°-60°/0.15 mm Hg.

reactant | diisopropylamine | 0.50 mol, 70 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 1.6M, 313 mL | C(CCC)[Li]
reactant | methyl isobutyrate | 0.50 mol, 57.3 mL | C(C(C)C)(=O)OC | C5H10O2
reactant | triethoxysilyl chloride | 0.75 mol, 147 mL | C(C)O[Si](OCC)(OCC)Cl | C6H15ClO3Si
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | [(1-Methoxy-2-methyl-1-propenyl)oxy]triethoxysilane | 86% yield | COC(=C(C)C)O[Si](OCC)(OCC)OCC | C11H24O5Si
